US07902187B2
A mixture of 8-fluorochroman-4-amine (3.40 g), methyl 2-methoxyacetate (2.44 g) and Novozyme 435 (Aldrich, 0.68 g) in anhydrous tert-butyl methyl ether (75 mL) was heated at reflux under argon for two hours (at which time the ratio of acylated to unacylated product was 1:1 by HPLC). The solid that formed upon cooling was collected via filtration and dissolved in EtOAc. The mixture was filtered to remove the biocatalyst and washed once with 0.5M HCl to remove any lingering (S)-amine. The solvent was evaporated and the product was recrystallized from tert-butyl methyl ether to yield (R)—N-(8-fluorochroman-4-yl)-2-methoxyacetamide (0.78 g). The reaction solvent and recrystallization mother liquor was washed three times with 0.5 M HCl and concentrated to yield additional (R)—N-(8-fluorochroman-4-yl)-2-methoxyacetamide (0.83 g). The combined acidic aqueous layers were made basic by NaOH and extracted with methylene chloride to yield (S)-8-fluorochroman-4-amine (5a) (1.6 g). A solution of (R)—N-(8-fluorochroman-4-yl)-2-methoxyacetamide (0.78 g) in 8M HCl in EtOH (50 mL) was heated at reflux for four hours. The solvents were removed from the cooled reaction mixture, the resulting solid was taken up in 50 mL of 0.5M NaOH, salted out with NaCl(s), and extracted four times with methylene chloride to yield (R)-8-fluorochroman-4-amine (0.48 g (87%)) (5b). The % ee was checked via chiral HPLC: Chiralcel OD-H (0.46×25 cm analytical column, Daicel Chemical Industries) method: isocratic 5% (0.05% TFA/EtOH) 95% (0.05% TFA/Hex), Rt=7.2 min (S)-enantiomer, Rt=9.2 min (R)-enantiomer.

reactant | 8-fluorochroman-4-amine | 3.40 g | FC=1C=CC=C2C(CCOC12)N | C9H10FNO
reactant | methyl 2-methoxyacetate | 2.44 g | COCC(=O)OC | C4H8O3
solvent | tert-butyl methyl ether | 75 mL | COC(C)(C)C | C5H12O
product | (R)—N-(8-fluorochroman-4-yl)-2-methoxyacetamide | 0.78 g | FC=1C=CC=C2[C@@H](CCOC12)NC(COC)=O | C12H14FNO3
